US07452893B2
Step 2: trans-2-[4-(2-Oxo-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione
To a stirred solution of 2 g of trans-2-[4-(5-methyl-2-phenyl-hex-2-enyloxy)-cyclohexyl]-isoindole-1,3-dione in 100 mL of dichloromethane cooled to −78° C. was dispersed a stream of ozone from an ozone generator until a blue color persisted. The excess ozone was purged with nitrogen until the blue color dissipated, and 5 mL of methyl sulfide was added. After warming to room temperature over 30 min, the solution was concentrated under reduced pressure. Chromatography over silica gel eluting with a gradient of 2%-30% ethyl acetate in hexane gave 1.8 g of product as a white crystalline solid: 1H NMR (400 MHz, CDCl3) 8.0 (d, 2H), 7.8 (m, 2H), 7.6 (t, 1H), 7.5 (t, 2H), 4.8 (s, 2H), 4.18 (m, 1H), 3.5 (m, 1H), 2.35 and 2.25 (overlapping dd and d, 4H), 1.8 (d, 2H), 1.5 (dd, 2H).

reactant | trans-2-[4-(5-methyl-2-phenyl-hex-2-enyloxy)-cyclohexyl]-isoindole-1,3-dione | 2 g | CC(CC=C(CO[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1)C | C27H31NO3
reactant | ozone | O=[O+][O-] | O3
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | trans-2-[4-(2-Oxo-2-phenyl-ethoxy)-cyclohexyl]-isoindole-1,3-dione | 1.8 g | O=C(CO[C@@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)C1=CC=CC=C1 | C22H21NO4
